US08980886B2
Synthesis of methyl 4-(bromoacetyl)-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate
427 mg (1.48 mmol) of methyl 4-acetyl-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate were initially charged in 12 ml of dioxane, and 284 mg (1.78 mmol) of bromine were added dropwise at RT. The mixture was then stirred under reflux for 7 h. The solvent was distilled off under reduced pressure, giving an oil which was directly, without purification, reacted further.

reactant | methyl 4-acetyl-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate | 1.48 mmol, 427 mg | C(C)(=O)C=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)OC | C13H11ClN2O3
reactant | bromine | 1.78 mmol, 284 mg | BrBr | Br2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | methyl 4-(bromoacetyl)-1-(3-chloropyridin-2-yl)-1H-pyrrole-2-carboxylate | BrCC(=O)C=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)OC | C13H10BrClN2O3
